US04652556
Preparation of N-Cyanomethyl 4-nitrophenylsulfonamide
To a stirred solution of 27.8 g (0.3 moles) aminoacetonitrile hydrochloride in 200 ml water, 24 g (0.3 moles) sodium hydroxide (50% aqueous) were added. The resulting mixture was cooled to about 20° C. with an ice bath. The ice bath was removed; then 22.2 g (0.1 mole) 4-nitrobenzenesulfonyl chloride were added. The reaction mixture was stirred 18 hours at ambient temperature. The solids were filtered. The resulting wet cake was crystallized from 50 ml ethanol. The solids were dried in vacuo to give 17.5 g of the above-identified product as a dark-yellow solid, melting point 115°-120° C.

reactant | aminoacetonitrile hydrochloride | 0.3 moles, 27.8 g | Cl.NCC#N
reactant | sodium hydroxide | 0.3 moles, 24 g | [OH-].[Na+]
reactant | 4-nitrobenzenesulfonyl chloride | 0.1 mole, 22.2 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | water | 200 ml | O | H2O
product | N-Cyanomethyl 4-nitrophenylsulfonamide | 17.5 g | C(#N)CNS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H7N3O4S
